US08431597B2
(2R,4R)-tert-butyl 2-((2-amino-4,5-dimethylphenyl)carbamoyl)-4-(3-(4-cyanophenyl)ureido)piperidine-1-carboxylate
4,5-dimethylbenzene-1,2-diamine (39 mg, 0.286 mmol) was added to a mixture of (2R,4R)-1-(tert-butoxycarbonyl)-4-(3-(4-cyanophenyl)ureido)piperidine-2-carboxylic acid (100 mg, 0.258 mmol), BOP (120 mg, 0.27 mmol) and DIEA (0.09 mL, 0.52 mmol) in DMF (1 mL), and the resulting solution was stirred at room temperature for 8 hours. Water (10 mL) was added to the reaction mixture and then extracted with ethyl acetate (2×20 mL). The organic layers were dried over MgSO4 and concentrated to give a red solid. Purification was done by Companion (ReadySep, 12 g, silica gel packed) with ethyl acetate/heptane from 50-80% to give the title compound as a white solid 104 mg (80%). LC-MS: 507.3, 505.4 (t=2.4 min).

reactant | 4,5-dimethylbenzene-1,2-diamine | 0.286 mmol, 39 mg | CC=1C=C(C(=CC1C)N)N | C8H12N2
reactant | (2R,4R)-1-(tert-butoxycarbonyl)-4-(3-(4-cyanophenyl)ureido)piperidine-2-carboxylic acid | 0.258 mmol, 100 mg | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](CC1)NC(=O)NC1=CC=C(C=C1)C#N)C(=O)O | C19H24N4O5
reactant | BOP | 0.27 mmol, 120 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 0.52 mmol, 0.09 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | Water | 10 mL | O | H2O
product | (2R,4R)-tert-butyl 2-((2-amino-4,5-dimethylphenyl)carbamoyl)-4-(3-(4-cyanophenyl)ureido)piperidine-1-carboxylate | 104 mg, 80% | NC1=C(C=C(C(=C1)C)C)NC(=O)[C@@H]1N(CC[C@H](C1)NC(=O)NC1=CC=C(C=C1)C#N)C(=O)OC(C)(C)C | C27H34N6O4
